US06465467B1
Step 1: 3-(1-Piperazinyl)-2,6,7-trichloroquinoxaline.
Piperazine (0.69 g, 8.06 mmol) was added to a stirred suspension of 2,3,6,7-tetrachloro-quinoxaline (1.08 g, 4.03 mmol) in EtOH (125 mL) at room temperature. The mixture was stirred at room temperature for 8 h and filtered to give the product as a pale yellow solid: yield 0.88 g (69%); mp >300° C. MS m/z 316/318 (M)+.

reactant | Piperazine | 8.06 mmol, 0.69 g | N1CCNCC1 | C4H10N2
reactant | 2,3,6,7-tetrachloro-quinoxaline | 4.03 mmol, 1.08 g | ClC1=NC2=CC(=C(C=C2N=C1Cl)Cl)Cl | C8H2Cl4N2
solvent | EtOH | 125 mL | CCO | C2H6O
product | 3-(1-Piperazinyl)-2,6,7-trichloroquinoxaline | N1(CCNCC1)C=1C(=NC2=CC(=C(C=C2N1)Cl)Cl)Cl | C12H11Cl3N4
